US08202873B2
Dissolve 2-bromopyridine (5 mL, 51.3 mmol) in tetrahydrofuran (125 mL). Cool to −78° C. and add lithium diisopropylamide (28.2 mL, 56.4 mmol, 2 M solution in heptane/tetrahydrofuran/ethylbenzene). Stir for 45 min. at −78° C., add zinc chloride (102.5 mL, 51.3 mmol, 0.5 M solution in tetrahydrofuran) and warm to 25° C. for one hr. Add 1-fluoro-4-iodobenzene (5.91 mL, 51.3 mmol) and tetrakis(triphenyl-phosphine)palladium(0) (2.96 g, 2.56 mmol) and reflux the mixture for 18 hr. Cool the mixture to room temperature, dilute with saturated aqueous sodium bicarbonate and extract 3 times with DCM. Combine the organic extracts, dry (sodium sulfate), filter and purify (silica gel chromatography, eluting with 20:80 ethyl acetate:hexanes) to give 2-bromo-3-(4-fluorophenyl)-pyridine (4.27 g, 33% yield).

reactant | 2-bromopyridine | 51.3 mmol, 5 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | lithium diisopropylamide | 56.4 mmol, 2 M, 28.2 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-fluoro-4-iodobenzene | 51.3 mmol, 5.91 mL | FC1=CC=C(C=C1)I | C6H4FI
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | zinc chloride | 51.3 mmol, 0.5 M, 102.5 mL | [Cl-].[Zn+2].[Cl-]
product | 2-bromo-3-(4-fluorophenyl)-pyridine | 4.27 g, 33% yield | BrC1=NC=CC=C1C1=CC=C(C=C1)F | C11H7BrFN
